US06329144B1
N-(carboxypentyl) quinoline bromide (II, FIG. 7)
Chinolin (5.2 g, 40 mmol) and 6-bromo-hexanicacid (7.8 g, 40 mmol) was added to 30 ml acetonitrile. The mixture was refluxed under nitrogen atmosphere for three hours and then stirred for 15 hours at room temperature. 50 ml acetone was added and the solution was stirred for further 1 hour. The white precipitate was filtered, washed with acetone (2*10 ml) and dried.

reactant | Chinolin | 40 mmol, 5.2 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 6-bromo-hexanicacid | 40 mmol, 7.8 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(carboxypentyl) quinoline bromide | [Br-].C(=O)(O)CCCCCN1CC=CC2=CC=CC=C12 | InChI=1S/C15H19NO2.BrH/c17-15(18)10-2-1-5-11-16-12-6-8-13-7-3-4-9-14(13)16;/h3-4,6-9H,1-2,5,10-12H2,(H,17,18);1H/p-1
